US08633207B2
To N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazolin-8-yl)formamide (168 mg, 0.462 mmol) in DCM (5 mL) at 0° C. was added 3-chloroperbenzoic acid (70%, 171 mg, 0.69 mmol) and the mixture stirred for 40 min. The mixture was diluted with DCM and then aq sodium thiosulfate and saturated aq sodium bicarbonate were added. The organic layer was separated, dried over sodium sulfate, and concentrated under reduced pressure. To the residue were added THF (4 mL) and 5-methyl-1H-pyrazol-3-amine (135 mg, 1.38 mmol) and the mixture was stirred at rt for 20 min. The mixture was concentrated under reduced pressure and purified by preparative HPLC (Varian C-18 reverse phase column, eluted with gradient of solvent B=0.05% formic acid/ACN and solvent A=5% ACN/0.05% formic acid/H2O) to afford N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-8-yl)formamide (66 mg, 35%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.17 (s, 3H) 5.89 (s, 1H) 7.61 (t, J=8.10 Hz, 1H) 7.96-8.11 (m, 2H) 8.37 (d, J=8.29 Hz, 1H) 8.66 (d, J=11.87 Hz, 2H) 8.79 (d, J=7.72 Hz, 1H) 10.24 (s, 1H) 10.77 (br s, 1H) 11.81-12.73 (m, 1H); LC-MS (ESI) m/z 414 (M+H)+.

reactant | N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazolin-8-yl)formamide | 0.462 mmol, 168 mg | FC(C1=NC2=C(C=CC=C2C(=N1)SC)NC=O)(C1=NC=C(C=C1)F)F | C16H11F3N4OS
reactant | 3-chloroperbenzoic acid | 0.69 mmol, 171 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1H-pyrazol-3-amine | 1.38 mmol, 135 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-8-yl)formamide | 66 mg, 35% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)NC=O)(C1=NC=C(C=C1)F)F | C19H14F3N7O
